US06989392B2
8-(1,3,3-trimethylbutoxy)quinoline
A 250 mL round bottom flask equipped with a pressure equalizing dropping funnel, stirring bar and N2 outlet was charged with 4.00 g (27.6 mmol) of 8-hydroxyquinoline, 21.7 g (3 equiv) of PPh3 and 80 mL of anhydr. THF. After stirring for 5 min, 4.91 mL (1.25 equiv) of 4,4-dimethyl-2-pentanol was added. The reaction mixture was then cooled in an ice bath and a solution of 9.52 g (1.5 equiv) of DBAD in 50 mL of anhydr. THF was added dropwise over 30 minutes. The reaction was allowed to slowly warm to room temperature, and stirring was maintained for an additional 6 h. Then, an additional 2.46 mL (0.62 equiv) of the alcohol was added, the reaction mixture was cooled in an ice bath and a solution of 4.76 g (0.75 equiv) of DBAD in 25 mL of anhydr. THF was added dropwise over 15 minutes. The reaction was allowed to slowly warm to room temperature, and stirring was maintained for an additional 12 h. An additional 10.9 g (1.5 equiv) of PPh3 was added, followed by 2.46 mL (0.62 equiv) of the alcohol. The reaction mixture was cooled in an ice bath and a solution of 4.76 g (0.75 equiv) of DBAD in 25 mL of anhydr. THF was added dropwise over 15 minutes. The reaction was allowed to slowly warm to room temperature, and stirring was maintained for an additional 6 h. The reaction mixture was then evaporated in vacuo and the resulting residue dissolved in 150 mL of EtOAc. The solution was washed with 2 N HCl (3×400 mL). The aqueous layers were combined and basified with 10 N NaOH to pH 14. The resulting solution was extracted with EtOAc (3×150 mL), the organic layers were combined, dried over anhydr. Na2SO4 and evaporated in vacuo. The crude material was purified by silica gel column chromatography (10% EtOAc/hexanes+2% TEA) to afford the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 8.95 (dd, 1H), 8.10 (dd, 1H), 7.40 (m, 3H), 7.09 (br d, 1H), 4.79 (m, 1H), 2.20 (dd, 1H), 1.57 (m, 1H), 1.46 (d, 3H), 0.98 (s, 9H); MS (DCI/NH3) m/z 244 [M+H]+.

reactant | 8-hydroxyquinoline | 27.6 mmol, 4.00 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | PPh3 | 21.7 g, 3 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 4,4-dimethyl-2-pentanol | 4.91 mL, 1.25 equiv | CC(CC(C)O)(C)C | C7H16O
reactant | DBAD | 9.52 g, 1.5 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | DBAD | 4.76 g, 0.75 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | PPh3 | 10.9 g, 1.5 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DBAD | 4.76 g, 0.75 equiv | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 8-(1,3,3-trimethylbutoxy)quinoline | CC(CC(C)(C)C)OC=1C=CC=C2C=CC=NC12 | C16H21NO
